US06291621B1
1,5-dimethoxy-4,8-Bis(2-thienyl)naphthalene (4,8-BTDMN)
1,5-Dimethoxy-4,8-dibromonaphthalene (1.19 g., 0.0034 mol.) and 2-(tributylstannyl)thiophene (3.85 g., 0.0103 mol.) were dissolved in 100 mL dry toluene in argon atmosphere. Pd(PPh3)4 (100 mg.) was introduced into the reaction flask using a Schlenk tube under argon. The resultant mixture was subsequently refluxed for 18 hrs. The brownish black solution was cooled and poured into 300 mL of petroleum ether to afford crude yellow solid. Upon recrystallization from CH2Cl2:petroleum ether (1:5), the desired product was obtained as a light yellow solid. Yield: 81%. M.p. 216-218° C. Anal. Calcd. for C20H16O2S2: C, 68.15%; H, 4.58%; S, 18.19%. Found: C, 67.64%; H, 4.48%; S, 17.49%. Mass spectrum: 351.75 (M+). 1H-NMR (CDCl3; in ppm): 3.59 (s, 3H), 6.81 (d, 2H), 6.89 (d, 2H), 7.00 (dd, 2H), 7.26 (dd, 2H), 7.38 (d, 2H). 13C-NMR CDCl3; in ppm): 55.6, 106.5, 123.1, 123.5, 125, 125.5, 126.1, 131.1, 147.5, 156.8.

reactant | 1,5-Dimethoxy-4,8-dibromonaphthalene | 0.0034 mol, 1.19 g | COC1=CC=C(C2=C(C=CC(=C12)Br)OC)Br | C12H10Br2O2
reactant | 2-(tributylstannyl)thiophene | 0.0103 mol, 3.85 g | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,5-dimethoxy-4,8-Bis(2-thienyl)naphthalene | Yield: 81% | COC1=CC=C(C2=C(C=CC(=C12)C=1SC=CC1)OC)C=1SC=CC1 | C20H16O2S2
